US06175007B1
5-Chloro-4-(4-chlorophenyl)-1-difluoromethyl-2-methyl-1H-imidazole
26.7 g (0.19 mol) of sulfuryl chloride were added dropwise with ice-cooling to a suspension of 24 g (98 mmol) of 4-(4-chlorophenyl)-1-difluoromethyl-2-methyl-1H-imidazole in 200 ml of tetrachloromethane. After the reaction mixture had been stirred for 2 hours, an excess of saturated aqueous sodium hydrogen carbonate solution was added dropwise (still with ice-cooling). The solids were subsequently filtered off. The organic phase was washed with water until neutral, dried over magnesium sulfate and concentrated. The crude product was purified by means of silica gel column chromatography (eluent: hexane/ethyl acetate=8:1). Yield: 7.4 g.

reactant | sulfuryl chloride | 0.19 mol, 26.7 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-(4-chlorophenyl)-1-difluoromethyl-2-methyl-1H-imidazole | 98 mmol, 24 g | ClC1=CC=C(C=C1)C=1N=C(N(C1)C(F)F)C | C11H9ClF2N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrachloromethane | 200 ml | ClC(Cl)(Cl)Cl | CCl4
product | 5-Chloro-4-(4-chlorophenyl)-1-difluoromethyl-2-methyl-1H-imidazole | ClC1=C(N=C(N1C(F)F)C)C1=CC=C(C=C1)Cl | C11H8Cl2F2N2
